US05527686
Hydroxycotinine hemisuccinate succinic ester was prepared by adding to 1 ml of cotinine hemisuccinate 14 mg of N-hydroxysuccinimide (Sigma) and 23 mg of 1-ethyl-3-(dimethylaminopropyl) carbodiimide (Sigma) and incubating at room temperature for 3 ]]ours.

reactant | cotinine | 1 ml, 14 mg | CN1[C@@H](CCC1=O)C=2C=CC=NC2 | C10H12N2O
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(dimethylaminopropyl) carbodiimide | 23 mg | C(C)N=C=NCCCN(C)C | C8H17N3
product | Hydroxycotinine | CN1C(CC(C1=O)O)C2=CN=CC=C2 | C10H12N2O2
